US04405552
EXAMPLE 67: 1-(2-BROMOBENZOYL)-3-(6-METHYL-5-PHENYL-2-PYRIDYL)UREA
2-Bromobenzoyl isocyanate (650 mg) is reacted with 6-methyl-5-phenyl-2-pyridylamine (500 mg) in 25 ml of ethyl acetate. A precipitate forms which upon filtering constitutes the desired product.

reactant | 2-Bromobenzoyl isocyanate | 650 mg | BrC1=C(C(=O)N=C=O)C=CC=C1 | C8H4BrNO2
reactant | 6-methyl-5-phenyl-2-pyridylamine | 500 mg | CC1=C(C=CC(=N1)N)C1=CC=CC=C1 | C12H12N2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-BROMOBENZOYL)-3-(6-METHYL-5-PHENYL-2-PYRIDYL)UREA | BrC1=C(C(=O)NC(=O)NC2=NC(=C(C=C2)C2=CC=CC=C2)C)C=CC=C1 | C20H16BrN3O2
